US09388189B2
a) (S)-2-(1-((5-(3-Amino-5-fluorophenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (250 mg, 0.42 mmol) was treated with 3-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (250 mg, 1.05 mmol), sodium carbonate (110 mg, 1.05 mmol) and 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (100 mg, 0.12 mmol) in a mixture of 1,2-dimethoxyethane (10.6 ml) and water (2.4 ml) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 70% n-hexane-ethyl acetate) to obtain 170 mg (53% yield, 82% purity) of the title compound.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.42 mmol, 250 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | 3-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.05 mmol, 250 mg | FC=1C=C(N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C12H17BFNO2
reactant | sodium carbonate | 1.05 mmol, 110 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10.6 ml | COCCOC | C4H10O2
solvent | water | 2.4 ml | O | H2O
product | (S)-2-(1-((5-(3-Amino-5-fluorophenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 53% yield | NC=1C=C(C=C(C1)F)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C33H37FN8O2Si
